2147-10-11 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-10**] 10:00 PM
   Cefipime - [**2147-10-11**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-10-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-11**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.3
C (95.6
   HR: 96 (96 - 120) bpm
   BP: 124/71(84) {111/54(68) - 146/75(91)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,360 mL
                                                                    150 mL
   PO:
             40 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    210 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   ), tachypnic, but no retraction, no abdominal breathing
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   77 yr old male with NSCLCA s/p cyberknife, UIP, emphysema presenting
   with worsening hypoxia.
   .
   # SOB: Patient is hypoxic without respiratory distress. Pa02/FIo2 80.
   Unclear etiology of acute exacerbation, but hx of sneezing suggests
   viral URI. There is no fever, leukocytosis or organisms on BAL to
   suggest PNA necessary, but as these pt have poor reserve will cover
   broadly until pt is stabalized. The patient does not appear clinically
   volume overloaded w/o JVD or peripheral edema. CTA neg for PE. The
   patient is likely having an acute flare of IPF. Per IP, Imuran
   discontinued.
   - continue tele
   - restart Solumedrol 125mg TID for 3 days, then taper
   - start NAC
   - cont Levaquin 750 PO Q 48 for empirical pna coverage, add Vanc and
   cefepime  given decompenstation today and recent stay in rehab
   - nebulizers, avoid albuterol as pt remains tachycardic
   - f/u BAl and blood cx
   - On bactrim DS for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] check BNP for ? volume overload
   - check echo
   - obtain flu swab
   .
   # ARF: Baseline Cr around 1.8, which increased to 2.2. Likely Cr
   elevation [**1-21**] lasix administration in the setting of hypovolemia. Fena
   now 2.6%
   - follow cr
   .
   # tachycardia: MAT wiht atrial enlargment. Likely related to increase
   pulmonary fibrosis. No evidence of PE on exam, and CT negative. Tachy
   to 130 on last admission upon first presentation.
   - continue to monitor on tele
   - serial ecgs
   - avoid beta-agonists
   .
   # Anemia: close to baseline. Will trend hct.
   .
   # HTN: Contine Hctz 12.5 mg daily.
   .
   # FEN: replete lytes prn
   # PPx: subq heparin, protonix
   # Access: PIV
   # Code: full
   # Communication: With patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-10**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-10-11 09:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight, no new symptoms.  Weaning supplimental O2 gradually, with
   acceptable SaO2.
   States to feel somewhat improved.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-10**] 10:00 PM
   Cefipime - [**2147-10-11**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-10-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine,
   Chronic steroid use
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-10-11**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.3
C (95.6
   HR: 96 (96 - 120) bpm
   BP: 124/71(84) {111/54(68) - 146/75(91)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,360 mL
                                                                    179 mL
   PO:
             40 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    210 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 95%
   ABG: 7.48/40/80/29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : bases, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   90 K/uL
   176 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   65 mg/dL
   94 mEq/L
   133 mEq/L
   26.6 %
   6.2 K/uL
        [image002.jpg]
                            [**2147-10-11**]  05:32 AM
   WBC
   6.2
   Hct
   26.6
   Plt
   90
   Cr
   2.3
   Glucose
   176
   Other labs: PT / PTT / INR:12.8/25.6/1.1, Ca++:9.2 mg/dL, Mg++:2.0
   mg/dL, PO4:5.8 mg/dL
   Fluid analysis / Other labs: BNP= >1200
   Assessment and Plan
   Interstial lung disease, lung hemorrhage (?immune mediated).
   RESPIRATORY DISTRESS -- attributed to acute alveolar hemorrhage
   complicating radiation pneumonitis, underlying ILD.  Doubt acute
   infection.  No evidence for pulmonary embolism.  Plan supplimental O2,
   maintain SaO2 >88%.  Empirical antimicrobials, but may be able to d/c
   soon.
   ILD -- attributed to radiation-induced pneumonitis, ?vasculitis -->
   continue steroids, plan pulse-dose (1 gm/day) x 3-5 days.
   HYPOXEMIA -- attributed to ILD, alveolar hemmorhage.
   CHRONIC CORTICOSTEROIDS --  desire steroid sparing regimen.  Continue
   PcP [**Name Initial (PRE) 2000**].
   LUNG CA -- not surgical candidate --> s/p cyberknife RUL.  No further
   intervention planned.
   ASBESTOS EXPOSURE -- plaques evident by CXR & CT.  No further
   intervention.
   FLUIDS -- desire net balance.  Follow I/O.
   RENAL FAILURE -- acute on chronic.  Recent insult may be related to iv
   contrast dye (CT angio on [**2147-10-8**]) --> ATN.  Monitor BUN, creatinine,
   UO.  Check UA.  Consider Pulmonary Renal syndrome.  Low threshold for
   Renal Consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-10**] 07:08 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2147-10-11 10:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Weaned to Venti-Mask at 12L 50% overnight
   Seen by his out-patient pulmonologist this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-10**] 10:00 PM
   Cefipime - [**2147-10-11**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-10-11**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Flowsheet Data as of  [**2147-10-11**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.4
   HR: 119 (96 - 120) bpm
   BP: 131/59(78) {111/54(68) - 146/75(91)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  1,360 mL
                                                                    430 mL
   PO:
             280 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    210 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 93%
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Tachy, Irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   (Velcro Sounding at bases bilaterally), No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   90 K/uL
   9.2 g/dL
   176 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   65 mg/dL
   94 mEq/L
   133 mEq/L
   26.6 %
   6.2 K/uL
        [image002.jpg]
                            [**2147-10-11**]  05:32 AM
   WBC
   6.2
   Hct
   26.6
   Plt
   90
   Cr
   2.3
   Glucose
   176
   Other labs: PT / PTT / INR:12.8/25.6/1.1, Ca++:9.2 mg/dL, Mg++:2.0
   mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   77yoM with NSCLCA s/p cyberknife, UIP presents with worsening hypoxia
   # Acute on Chronic Hypoxemic Respiratory Failure: Etiology potentially
   includes Intra-alveolar hemorrhage, UIP flare, less likely PNA. CT
   shows worsening bilateral intra-alveolar disease. Prior BAL shows no
   growth to date, blood aspirated during BAL. Pt has been responsive to
   dose-steroids in past.
   -          Solumderol 1gm daily for 3 days
   -          Continue NAC
   -          Cont Vanc/Cefepime for empiric PNA although pt has been
   afebrile without leukocytosis or increased sputum. Short course unless
   pt presented worsening symptoms. Will anticipate bump in leukocytosis
   given steroids bump. Pt currently tachy, and had  prior red/brownish
   sputum post BAL
   -          d/c levaquin
   -          Cont Bactrim ppx
   -          Avoiding B-agonists
   -          Checking TTE
   -          f/u viral swab
   # ARF: Baseline Cr 1.8, 2.2 today. DDx: Pre-renal, (although Urine
   lytes not indicative), CIN (CTA on [**10-8**]), and potentially
   Pulmonary-Renal process.
   -          Checking urine sediment today
   -          I/O goal even
   -          Low threshold for Renal Consult
   -          Holding HCTZ
   #Tachycardia: MAT vs NSR with PACs. Although P waves appear
   polymorphic. Likely [**1-21**] to pulmonary fibrosis. Ruled out PE.
   -          Monitor on Tele
   # Anemia: Near baseline, continue to trend
   # HTN: BP controlled
   -          Holding HCTZ
   # FEN:  KVO / Replete PRN / Regular Renal Diet
   # PPx: SQH, PPi
   # Access: PIV
   # Full Code
   # Comm: [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-10**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-10-12 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID approved Cefepime; Pharmacy approaved NAC
   - Solumedrol 1g daily x 3 days; had HCTZ
   - Rheum: Unclear if etiology is immune related given no biopsy or pos
   antibodies. Continue Solumedrol 1g/d IV, Consider restarting Imuran for
   long term tx, check urine sediment, consider renal c/s though most
   likely acute on CRI [**1-21**] dye exposure
   - Goal I:O = approx even.
   - Follow up Pulm recs: no new recs.
   - Urine Sediment: Ordered, need to f/u.
   - Follow up cultures: Final [**2147-10-11**]: 10,000-100,000 ORGANISMS/ML.
   OROPHARYNGEAL FLORA.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-10**] 10:00 PM
   Bactrim (SMX/TMP) - [**2147-10-11**] 09:00 AM
   Cefipime - [**2147-10-11**] 10:38 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-10-11**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2147-10-11**] 05:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-12**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 102 (85 - 119) bpm
   BP: 116/57(72) {87/54(67) - 135/88(95)} mmHg
   RR: 22 (8 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,130 mL
                  PO:
                                                                    880 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    475 mL
   Urine:
                                                                  1,900 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 91%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Tachy, Irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   (Velcro Sounding at bases bilaterally), No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   90 K/uL
   9.2 g/dL
   176 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   65 mg/dL
   94 mEq/L
   133 mEq/L
   26.6 %
   6.2 K/uL
        [image002.jpg]
                            [**2147-10-11**]  05:32 AM
   WBC
   6.2
   Hct
   26.6
   Plt
   90
   Cr
   2.3
   Glucose
   176
   Other labs: PT / PTT / INR:12.8/25.6/1.1, Ca++:9.2 mg/dL, Mg++:2.0
   mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   77yoM with NSCLCA s/p cyberknife, UIP presents with worsening hypoxia
   # Acute on Chronic Hypoxemic Respiratory Failure: Etiology potentially
   includes Intra-alveolar hemorrhage, UIP flare, less likely PNA. CT
   shows worsening bilateral intra-alveolar disease. Prior BAL shows no
   growth to date, blood aspirated during BAL. Pt has been responsive to
   dose-steroids in past.
   -          Solumderol 1gm daily for 3 days
   -          Continue NAC
   -          Cont Vanc/Cefepime for empiric PNA although pt has been
   afebrile without leukocytosis or increased sputum. Short course unless
   pt presented worsening symptoms. Will anticipate bump in leukocytosis
   given steroids bump. Pt currently tachy, and had  prior red/brownish
   sputum post BAL
   -          d/c levaquin
   -          Cont Bactrim ppx
   -          Avoiding B-agonists
   -          Checking TTE
   -          f/u viral swab
   # ARF: Baseline Cr 1.8, 2.2 today. DDx: Pre-renal, (although Urine
   lytes not indicative), CIN (CTA on [**10-8**]), and potentially
   Pulmonary-Renal process.
   -          Checking urine sediment today
   -          I/O goal even
   -          Low threshold for Renal Consult
   -          Holding HCTZ
   #Tachycardia: MAT vs NSR with PACs. Although P waves appear
   polymorphic. Likely [**1-21**] to pulmonary fibrosis. Ruled out PE.
   -          Monitor on Tele
   # Anemia: Near baseline, continue to trend
   # HTN: BP controlled
   -          Holding HCTZ
   # FEN:  KVO / Replete PRN / Regular Renal Diet
   # PPx: SQH, PPi
   # Access: PIV
   # Full Code
   # Comm: [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-10**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-10-12 11:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States respiratory symptoms unchanged overnight, but overall improved
   since admission.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-10**] 10:00 PM
   Bactrim (SMX/TMP) - [**2147-10-11**] 09:00 AM
   Cefipime - [**2147-10-11**] 10:38 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-10-11**] 05:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-10-12**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 122 (85 - 122) bpm
   BP: 142/75(93) {87/54(67) - 142/88(95)} mmHg
   RR: 26 (8 - 29) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,130 mL
                  PO:
                                                                    880 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    475 mL
   Urine:
                                                                  1,900 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 89%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   68 K/uL
   171 mg/dL
   2.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   66 mg/dL
   97 mEq/L
   136 mEq/L
   24.1 %
   8.4 K/uL
        [image002.jpg]
                            [**2147-10-11**]  05:32 AM
                            [**2147-10-12**]  05:24 AM
   WBC
   6.2
   8.4
   Hct
   26.6
   24.1
   Plt
   90
   68
   Cr
   2.3
   2.0
   Glucose
   176
   171
   Other labs: PT / PTT / INR:12.8/25.6/1.1, ALT / AST:[**11-7**], Alk Phos / T
   Bili:55/0.7, LDH:565 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- abrupt exacerbation attributed to
   radiation-associated capillaritis.  Plan continue supplimental oxygen,
   maintain SaO2 >88%.  Continue steroids.  F/U BAL cultures.
   RADIATION PNEUMONITIS -- may account for diffuse radiographically
   evident lung disease.  Continue Steroids.
   ANEMIA -- ACD, perhaps some immune suppression from medications
   (Bactrim)
   THROMBOCYTOPENIA -- dropping plts, possibly related to medications (ex.
   Bactrim, heparin --> HIT)
   FLUIDS -- desire net negative fluid balance.
   A-FIB -- good rate control.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-10**] 07:08 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2147-10-13 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hapto<20, Fibrinogen 577, FDP 0-10, HCT up 27.6, PLT up to 77
   Repeat HCT and PLt 22 and 59. Resent hemolysis labs and HCT
   Peripheral Smear Sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2147-10-11**] 09:00 AM
   Vancomycin - [**2147-10-12**] 08:14 PM
   Cefipime - [**2147-10-12**] 10:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: No Changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt feels his breathing is stable from yesterday
   without increases in sputum production or worsening cough. SOB on
   exertion. No CP.
   Flowsheet Data as of  [**2147-10-13**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 89 (81 - 122) bpm
   BP: 119/71(82) {104/38(54) - 142/78(93)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,210 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    650 mL
   Urine:
                                                                  1,875 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -665 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, EOMI, Dry MM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Tachy, Irregular
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   (Velcro Sounding at bases bilaterally), No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   Labs / Radiology
   59 K/uL
   8.0 g/dL
   164 mg/dL
   1.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   74 mg/dL
   100 mEq/L
   136 mEq/L
   22.5 %
   4.9 K/uL
         [image002.jpg]
                            [**2147-10-11**]  05:32 AM
                            [**2147-10-12**]  05:24 AM
                            [**2147-10-12**]  02:49 PM
                            [**2147-10-13**]  04:06 AM
   WBC
   6.2
   8.4
   4.9
   Hct
   26.6
   24.1
   27.6
   22.5
   Plt
   90
   68
   77
   59
   Cr
   2.3
   2.0
   1.9
   Glucose
   176
   171
   164
   Other labs: PT / PTT / INR:12.8/25.6/1.1, ALT / AST:[**11-7**], Alk Phos / T
   Bili:55/0.7, Fibrinogen:577 mg/dL, LDH:565 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   77yoM with NSCLCA s/p cyberknife, Radiation  Pneumonitis presents with
   worsening hypoxia
   # Acute on Chronic Hypoxemic Respiratory Failure: Breathing stable
   since yesterday (Venti mask at 12L at 50% Fi02) etiology still include
   Intra-alveolar hemorrhage (or vasculitis), UIP/radiation pneumonitis
   flare, PNA. BAL NGTD. Day #3 of [**2-22**] of Solumderol 1gm daily.
   -          Will continue Solumderol 1gm daily for 3-5 days (currently
   day 3), then taper
   -          Wean down 02 as tolerated
   -          Continue NAC
   -          Will D/C Vanc/Cefepime given pancytopenia
   -          Will d/cBactrim ppx given pancytopenia developing
   -          Avoiding B-agonists
   -          f/u viral swab
   -          QID FS while on high dose steroids
   -          Per Rhenum Recs will consider starting Cellcept once
   pancytopenia begins resolving
   -          f/u Pulm Recs
   -          f/u Rheum Recs
   # ARF: Baseline Cr 1.8, 1.9 today.
   -          I/O goal even
   -          Holding HCTZ
   # Pancytopenia: Pt with continued Hct drop, low normal leukocytes
   however drop overnight in the setting of steroids, and continued drop
   in platelets. Guaiac negative. Normocytic, low retics, Total Bili WNL.
   Pt with known AOCD, however in setting of all cell lines decreasing
   this is likely a pancytopenia secondary to a medication effect in
   addition. Bactrim a known inciting [**Doctor Last Name **] (although started on [**8-30**], in
   addition), and recently started on Vanc/Cefepime). Given low likelihood
   of infection currently will d/c all three antibiotics.
   -          Trending Hct
   -          Given low haptoglobin, will check a Coombs
   -          Changing Bactrim PPx (Will start Pentamidine)
   #Tachycardia: MAT vs NSR with PACs. Although P waves appear
   polymorphic. Likely [**1-21**] to pulmonary fibrosis. Ruled out PE.
   -          Monitor on Tele
   # HTN: BP controlled
   -          Holding HCTZ
   # FEN:  KVO / Replete PRN / Regular Renal Diet
   # PPx: Pneumoboots, PPi
   # Access: PIV
   # Full Code
   # Comm: [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-10**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-10-13 11:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States to feel unchanged.  remains on suplimental oxygen via venturi
   mask.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2147-10-11**] 09:00 AM
   Vancomycin - [**2147-10-12**] 08:14 PM
   Cefipime - [**2147-10-12**] 10:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-10-13**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 107 (81 - 114) bpm
   BP: 114/56(71) {104/38(54) - 130/76(87)} mmHg
   RR: 21 (13 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,210 mL
                                                                    240 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    650 mL
   Urine:
                                                                  1,875 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -665 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   56 K/uL
   164 mg/dL
   1.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   74 mg/dL
   100 mEq/L
   136 mEq/L
   23.5 %
   4.9 K/uL
        [image002.jpg]
                            [**2147-10-11**]  05:32 AM
                            [**2147-10-12**]  05:24 AM
                            [**2147-10-12**]  02:49 PM
                            [**2147-10-13**]  04:06 AM
                            [**2147-10-13**]  05:55 AM
   WBC
   6.2
   8.4
   4.9
   Hct
   26.6
   24.1
   27.6
   22.5
   23.5
   Plt
   90
   68
   77
   59
   56
   Cr
   2.3
   2.0
   1.9
   Glucose
   176
   171
   164
   Other labs: PT / PTT / INR:13.1/22.1/1.1, ALT / AST:[**11-7**], Alk Phos / T
   Bili:55/0.7, Fibrinogen:424 mg/dL, LDH:565 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- attributed to vascluitis or flair of radiation
   pneumonitis.  Doubt infection.  WOuld favor discontinuing
   antimicrobials.
   RADIATION PNEUMONITIS -- possible flair.  High dose steroids.  PcP
   [**Name Initial (PRE) 2000**] (either monthly aorsolized pentamadine or dapsone)
   RENAL FAILURE -- improved, back to baseline.  Monitor UO, BUN,
   creatinine.
   ANEMIA -- progressive, no obvious blood loss.
   ILD/IPF
 chronic; current worsening may in part reflect exacerbation.
   Monitor exam and CXR.
   THROMBOCYTOPENIA -- no active bleed.  Monitor plts, transfuse if <20 or
   active bleed.
   LEUKOPENIA -- evolving.  [**Month (only) 8**] be related to infection, immune mediated
   process or medication effect.
   DIABETES MELLITUS -- worsened by high dose steroids.  MOnitor glucose,
   maintain <150
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-10**] 07:08 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussed plans with patient.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2147-10-14 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Completed 3 day course of Solumedrol
   D/C
d Cefepime/Vanc/Bactrim [**1-21**] to Pancytopenia
   Stable respiratory settings, pt OOB to chair
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2147-10-11**] 09:00 AM
   Vancomycin - [**2147-10-12**] 08:14 PM
   Cefipime - [**2147-10-12**] 10:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt feels symptoms are stable since yesterday
   Flowsheet Data as of  [**2147-10-14**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 106 (89 - 116) bpm
   BP: 120/76(85) {102/41(61) - 137/88(92)} mmHg
   RR: 18 (8 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
                  Total In:
                                                                  1,080 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    200 mL
   Urine:
                                                                  1,900 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -820 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Thin, NAD, AOx3
   Eyes / Conjunctiva: PERRL, EOMI, Dry MM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Tachy, Irregular
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   (Velcro Sounding at bases bilaterally), No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   Labs / Radiology
   56 K/uL
   8.0 g/dL
   164 mg/dL
   1.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   74 mg/dL
   100 mEq/L
   136 mEq/L
   23.5 %
   4.9 K/uL
        [image002.jpg]
                            [**2147-10-11**]  05:32 AM
                            [**2147-10-12**]  05:24 AM
                            [**2147-10-12**]  02:49 PM
                            [**2147-10-13**]  04:06 AM
                            [**2147-10-13**]  05:55 AM
   WBC
   6.2
   8.4
   4.9
   Hct
   26.6
   24.1
   27.6
   22.5
   23.5
   Plt
   90
   68
   77
   59
   56
   Cr
   2.3
   2.0
   1.9
   Glucose
   176
   171
   164
   Other labs: PT / PTT / INR:13.1/22.1/1.1, ALT / AST:[**11-7**], Alk Phos / T
   Bili:55/0.7, Fibrinogen:424 mg/dL, LDH:565 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   77yoM with NSCLCA s/p cyberknife, Radiation  Pneumonitis presents with
   worsening hypoxia
   # Acute on Chronic Hypoxemic Respiratory Failure: Breathing stable for
   past two days (Venti mask at 12L at 50% Fi02) etiology still include
   UIP/IPF flare Intra-alveolar hemorrhage (or vasculitis), radiation
   pneumonitis flare, PNA. BAL NGTD.
   -          Wean down 02 as tolerated
   -          Will taper prednisone to 1mg/kg (60-70mgs)
   -          Continue NAC
   -          Avoiding B-agonists
   -          f/u viral swab
   -          QID FS while on high dose steroids
   -          Per Rhenum Recs will consider starting Cellcept once
   pancytopenia begins resolving
   -          f/u Pulm Recs
   -          f/u Rheum Recs
   # ARF: Baseline Cr 1.8, 1.9 today.
   -          I/O goal even
   -          Holding HCTZ
   # Pancytopenia: Stabilized overnight Changed Bactrim PPx to
   Pentamidine, Holding Vanc/Cefepime
   -          Trending Hct
   -          Coombs pending
   #Tachycardia: MAT vs NSR with PACs. Although P waves appear
   polymorphic. Likely [**1-21**] to pulmonary fibrosis. Ruled out PE.
   -          Monitor on Tele
   # HTN: BP controlled
   -          Holding HCTZ
   # FEN:  KVO / Replete PRN / Regular Renal Diet
   # PPx: Pneumoboots, PPi
   # Access: PIV
   # Full Code
   # Comm: [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-10**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   [**Known lastname 611**] CCU 77M NSCLCa., cyberknife [**9-26**], fibrosis and pulmonary
   hemorrhage over past number of months, admitted with hypoxemia - given
   steroids and emperic antibiotics.  persistent elevated O2 needs
   Exam notable for Tm 97.8   HR  106  BP   RR 18  with 90 sat on 50% FM
   awake, alert, oriented, inspiratory crackles, tachy
   Labs notable for WBC 6K, HCT 23 plt 57, Na 137 ,K+ 4.2 , HCO3 29 ,Cr
   1.8
   Imaging: reviewed all CT's
   Problems: respiratory distress, ILD likely rapidly progressive IPF,
   less likely asbestosis or radiation toxicity, hypoxemia, h/o lung
   cancer with radiation injury at site of cyberknife
   Agree with plan to continue steroids, hold other immunosupression for
   now, doubt vasculitis, wean O2 as tolerated
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2147-10-14**] 16:52 ------

2147-10-15 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Administered prednisone 1mg/kg (70)
   - Following cultures
   - Pulm recs: CXR in am, starting cellcept (monitor blood lines
   closely).  To discuss Cellcept in AM).
   - No new rheumatology recs.
   - HEME: Check iron, b12 , folate; monitor FDP, fibrinogen, INR daily;
   recheck cbc c diff, and follow LDH and haptoglobin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-10-12**] 08:14 PM
   Cefipime - [**2147-10-12**] 10:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-15**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 92 (74 - 145) bpm
   BP: 123/67(79) {114/48(31) - 147/90(94)} mmHg
   RR: 23 (12 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    960 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                      0 mL
   Urine:
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, EOMI, Dry MM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Tachy, Irregular
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   (Velcro Sounding at bases bilaterally), No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   Labs / Radiology
   57 K/uL
   8.2 g/dL
   176 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.2 mEq/L
   71 mg/dL
   100 mEq/L
   137 mEq/L
   23.4 %
   5.7 K/uL
        [image002.jpg]
                            [**2147-10-11**]  05:32 AM
                            [**2147-10-12**]  05:24 AM
                            [**2147-10-12**]  02:49 PM
                            [**2147-10-13**]  04:06 AM
                            [**2147-10-13**]  05:55 AM
                            [**2147-10-14**]  06:44 AM
   WBC
   6.2
   8.4
   4.9
   5.7
   Hct
   26.6
   24.1
   27.6
   22.5
   23.5
   23.4
   Plt
   90
   68
   77
   59
   56
   57
   Cr
   2.3
   2.0
   1.9
   1.8
   Glucose
   176
   171
   164
   176
   Other labs: PT / PTT / INR:13.1/22.1/1.1, ALT / AST:[**11-7**], Alk Phos / T
   Bili:55/0.7, Fibrinogen:424 mg/dL, LDH:565 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   77yoM with NSCLCA s/p cyberknife, Radiation  Pneumonitis presents with
   worsening hypoxia
   # Acute on Chronic Hypoxemic Respiratory Failure: Breathing stable
   since yesterday (Venti mask at 12L at 50% Fi02) etiology still include
   Intra-alveolar hemorrhage (or vasculitis), UIP/radiation pneumonitis
   flare, PNA. BAL NGTD. Day #3 of [**2-22**] of Solumderol 1gm daily.
   -          Will continue Solumderol 1gm daily for 3-5 days (currently
   day 3), then taper
   -          Wean down 02 as tolerated
   -          Continue NAC
   -          Will D/C Vanc/Cefepime given pancytopenia
   -          Will d/cBactrim ppx given pancytopenia developing
   -          Avoiding B-agonists
   -          f/u viral swab
   -          QID FS while on high dose steroids
   -          Per Rhenum Recs will consider starting Cellcept once
   pancytopenia begins resolving
   -          f/u Pulm Recs
   -          f/u Rheum Recs
   # ARF: Baseline Cr 1.8, 1.9 today.
   -          I/O goal even
   -          Holding HCTZ
   # Pancytopenia: Pt with continued Hct drop, low normal leukocytes
   however drop overnight in the setting of steroids, and continued drop
   in platelets. Guaiac negative. Normocytic, low retics, Total Bili WNL.
   Pt with known AOCD, however in setting of all cell lines decreasing
   this is likely a pancytopenia secondary to a medication effect in
   addition. Bactrim a known inciting [**Doctor Last Name **] (although started on [**8-30**], in
   addition), and recently started on Vanc/Cefepime). Given low likelihood
   of infection currently will d/c all three antibiotics.
   -          Trending Hct
   -          Given low haptoglobin, will check a Coombs
   -          Changing Bactrim PPx (Will start Pentamidine)
   #Tachycardia: MAT vs NSR with PACs. Although P waves appear
   polymorphic. Likely [**1-21**] to pulmonary fibrosis. Ruled out PE.
   -          Monitor on Tele
   # HTN: BP controlled
   -          Holding HCTZ
   # FEN:  KVO / Replete PRN / Regular Renal Diet
   # PPx: Pneumoboots, PPi
   # Access: PIV
   # Full Code
   # Comm: [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-10-15**] 12:00 AM